US04695566
1.33 ml N-(2-aminoethyl)-morpholine, 2.2 g 3-hydroxycarbonylmethoxy-5-phenylpyrazole and 4.3 ml triethylamine were added in this order to 3.06 g 1-methyl-2-chloropyridinum iodide in methylene chloride. The reaction mixture was then heated to boiling for 3 hours under reflux. After cooling and washing with aqueous sodium hydroxide solution, the organic phase was evaporated, and the crude product obtained was purified chromatographically. 2.3 g 3-(2-morpholinoethylaminocarbonylmethoxy)-5-phenyl-pyrazole were obtained as an oily base. IR-spectrum (as film): 3205 cm-1, 1660 cm-1.

reactant | N-(2-aminoethyl)-morpholine | 1.33 ml | NCCN1CCOCC1 | C6H14N2O
reactant | 3-hydroxycarbonylmethoxy-5-phenylpyrazole | 2.2 g | OC(=O)COC1=NNC(=C1)C1=CC=CC=C1 | C11H10N2O3
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(2-morpholinoethylaminocarbonylmethoxy)-5-phenyl-pyrazole | 2.3 g | O1CCN(CC1)CCNC(=O)COC1=NNC(=C1)C1=CC=CC=C1 | C17H22N4O3
